US08455501B2
a) 3-Bromo-5-nitro-2-(2,2,2-trifluoro-ethoxy)-pyridine
To 1,1,1-trifluoroethanol (180 mL) was added sodium hydride (60% in oil, 10 g, 252.7 mmol) in portions at 0-5° C. and the reaction mixture was stirred at 25° C. for 30 min. To this solution was added 3-bromo-2-chloro-5-nitro-pyridine (CAN 5470-17-7) (6 g, 25.3 mmol) in trifluoroethanol (20 mL) drop wise and the reaction mixture was refluxed for 12 h. The solvent was removed in vacuo, and the residue was taken up in water and extracted with ethyl acetate (3×200 mL). Combined organic layers were washed with water (200 mL), brine, dried with Na2SO4 and concentrated. The crude material was purified by column chromatography (Combi-Flash, 40 g, 5% dichloromethane/hexane) to get the title compound (5.7 g, 74.9%) as white solid; NMR complies.

reactant | sodium hydride | 252.7 mmol, 10 g | [H-].[Na+]
reactant | 3-bromo-2-chloro-5-nitro-pyridine | 25.3 mmol, 6 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | trifluoroethanol | 20 mL | C(C(F)(F)F)O | C2H3F3O
product | 3-Bromo-5-nitro-2-(2,2,2-trifluoro-ethoxy)-pyridine | 5.7 g, 74.9% | BrC=1C(=NC=C(C1)[N+](=O)[O-])OCC(F)(F)F | C7H4BrF3N2O3
